US08669266B2
(iii) 4-[(R)-2-({4-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-7-methyl-quinoline-2-carbonyl}-amino)-3-fluoro-propionyl]-piperazine-1-carboxylic acid butyl ester
To a solution of 108 mg 4-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-7-methyl-quinoline-2-carboxylic acid in 2.5 ml DMF were added 134 μl DIPEA and 97 mg HATU. After 5 minutes 102 mg 4-((R)-2-Amino-3-fluoro-propionyl)piperazine-1-carboxylic acid butyl ester hydrotrifluoroacetate were added and the mixture stirred for 3 h before 2 ml of saturated aqueous NaHCO3 were added. The mixture was loaded on a chem Elute® cartridge and the crude product eluted with DCM. Further purification was performed by preparative HPLC (C18 reverse phase column, elution with a water/MeCN gradient with 0.1% TFA). The fractions containing the product were lyophilized to yield the pure product. Yield: 76 mg MS(ES+): m/e=669.

reactant | 4-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-7-methyl-quinoline-2-carboxylic acid | 108 mg | C1(CCC1)NC(=O)[C@H]1N(CCC1)C(COC1=CC(=NC2=CC(=CC=C12)C)C(=O)O)=O | C22H25N3O5
reactant | DIPEA | 134 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 97 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-((R)-2-Amino-3-fluoro-propionyl)piperazine-1-carboxylic acid butyl ester | 102 mg | C(CCC)OC(=O)N1CCN(CC1)C([C@H](CF)N)=O | C12H22FN3O3
reactant | NaHCO3 | 2 ml | C(=O)(O)[O-].[Na+]
solvent | DMF | 2.5 ml | CN(C)C=O | C3H7NO
product | 4-[(R)-2-({4-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-7-methyl-quinoline-2-carbonyl}-amino)-3-fluoro-propionyl]-piperazine-1-carboxylic acid butyl ester | C(CCC)OC(=O)N1CCN(CC1)C([C@H](CF)NC(=O)C1=NC2=CC(=CC=C2C(=C1)OCC(=O)N1[C@@H](CCC1)C(NC1CCC1)=O)C)=O | C34H45FN6O7
